US05350762
1,2,3,4-Tetrahydro-4-methyl-7-methoxycyclopent[b]indole-2-carboxylic acid ethyl ester
To a solution of 1,2,3,4-tetrahydro-7-methoxycyclopent[b]indole-2-carboxylic acid ethyl ester (10 g, 0.04 mole) in 75 ml of dimethylformamide, was added sodium hydride (1.7 g, 60% in oil, 0.043 mole). After stirring at ambient temperature for two hours, a solution of methyl iodide (2.7 ml, 0.043 mole) in dimethylformamide (10 ml) was added, and the mixture was stirred at 70° C. for five hours. After cooling, the mixture was poured into 200 ml of water, stirred for five minutes, and extracted with ethyl acetate. The organic layer was washed successively with water (2×) and a saturated NaCl solution, and then dried over anhydrous MgSO4. After filtering, the solvent was evaporated to afford a dark oil (~10 g) which was eluted on a silica gel column with dichloromethane via HPLC. The desired fractions were combined and concentrated to give the product as a thick yellow oil, 6.8 g.

reactant | 1,2,3,4-tetrahydro-7-methoxycyclopent[b]indole-2-carboxylic acid ethyl ester | 0.04 mole, 10 g | C(C)OC(=O)C1CC2=C(NC=3C=CC(=CC23)OC)C1 | C15H17NO3
reactant | sodium hydride | 0.043 mole, 1.7 g | [H-].[Na+]
reactant | methyl iodide | 0.043 mole, 2.7 ml | CI | CH3I
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-4-methyl-7-methoxycyclopent[b]indole-2-carboxylic acid ethyl ester | ~10 g | C(C)OC(=O)C1CC2=C(N(C=3C=CC(=CC23)OC)C)C1 | C16H19NO3
